US07871998B2
N-[(4-{(2R,3R)-4-oxo-3-[(2-oxo-2-phenylethyl)thio]-1-phenylazetidin-2-yl}phenoxy)acetyl]glycine
Glycine tert-butyl ester (0.015 g, 0.112 mmol) and N-Methylmorpholine (0.028 g, 0.281 mmol) were added to a solution of [4-((2R,3R)-3-{[(5,5-dimethyl-2-phenyl-1,3-dioxan-2-yl)methyl]thio}-4-oxo-1-phenylazetidin-2-yl)phenoxy]acetic acid (0.050 g, 0.094 mmol) in CH2Cl2 (5 ml). After 10 minutes, TBTU (0.039 g, 0.122 mmol) was added. The reaction was stirred overnight. The resulting tert-butyl ester was purified on silica gel and eluted with EtOAc/CH2Cl2 (25/75). The pure fractions were collected and concentrated. CH2Cl2 (4 ml) and TFA (1 ml) were added. The solvent was evaporated after 2 h and the residue was purified by preparative HPLC using an eluent of 20-70% CH3CN in 0.1M NH4OAc buffer. Freeze-drying of the pure fractions gave the title product as a colourless solid. M/z: 503.5 (M-1). 1H NMR (CD3CN), 400 MHz] δ 3.84 (d, 2H), 4.18 (d, 1H), 4.24 (s, 2H), 4.50 (s, 2H), 5.04 (d, 1H), 6.99-7.12 (m, 3H), 7.25-7.66 (m, 9H), 7.94-7.96 (m, 2H).

reactant | Glycine tert-butyl ester | 0.112 mmol, 0.015 g | C(C)(C)(C)OC(CN)=O | C6H13NO2
reactant | N-Methylmorpholine | 0.281 mmol, 0.028 g | CN1CCOCC1 | C5H11NO
reactant | [4-((2R,3R)-3-{[(5,5-dimethyl-2-phenyl-1,3-dioxan-2-yl)methyl]thio}-4-oxo-1-phenylazetidin-2-yl)phenoxy]acetic acid | 0.094 mmol, 0.050 g | CC1(COC(OC1)(C1=CC=CC=C1)CS[C@@H]1[C@H](N(C1=O)C1=CC=CC=C1)C1=CC=C(OCC(=O)O)C=C1)C | C30H31NO6S
reactant | TBTU | 0.122 mmol, 0.039 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[(4-{(2R,3R)-4-oxo-3-[(2-oxo-2-phenylethyl)thio]-1-phenylazetidin-2-yl}phenoxy)acetyl]glycine | O=C1[C@@H]([C@H](N1C1=CC=CC=C1)C1=CC=C(OCC(=O)NCC(=O)O)C=C1)SCC(C1=CC=CC=C1)=O | C27H24N2O6S
